** sch_path: /home/ubuntu/GitHub/sky130-pll/.loom/worktrees/issue-185/sim/jitter-calibration/testbench/tb_jitter_calibration.sch
**.subckt tb_jitter_calibration
R1 CLK GND 1k m=1
**** begin user architecture code

** GENERATED -- variant J05b: 300 cycles, nominal period
** 3.9170 ns, injected period jitter 0.500000% RMS
** (seeded RNG, seed 185005), TR = TF = 200 ps.
VCLK CLK GND pwl(
+ 0.000000n 0 1.900000n 0 2.100000n 1.8 3.854478n 1.8
+ 4.054478n 0 5.808957n 0 6.008957n 1.8 7.762344n 1.8
+ 7.962344n 0 9.715732n 0 9.915732n 1.8 11.678550n 1.8
+ 11.878550n 0 13.641368n 0 13.841368n 1.8 15.609052n 1.8
+ 15.809052n 0 17.576737n 0 17.776737n 1.8 19.536936n 1.8
+ 19.736936n 0 21.497135n 0 21.697135n 1.8 23.463121n 1.8
+ 23.663121n 0 25.429106n 0 25.629106n 1.8 27.373192n 1.8
+ 27.573192n 0 29.317278n 0 29.517278n 1.8 31.274094n 1.8
+ 31.474094n 0 33.230910n 0 33.430910n 1.8 35.183749n 1.8
+ 35.383749n 0 37.136588n 0 37.336588n 1.8 39.097736n 1.8
+ 39.297736n 0 41.058884n 0 41.258884n 1.8 43.040333n 1.8
+ 43.240333n 0 45.021782n 0 45.221782n 1.8 46.970339n 1.8
+ 47.170339n 0 48.918897n 0 49.118897n 1.8 50.876950n 1.8
+ 51.076950n 0 52.835003n 0 53.035003n 1.8 54.787555n 1.8
+ 54.987555n 0 56.740107n 0 56.940107n 1.8 58.691927n 1.8
+ 58.891927n 0 60.643746n 0 60.843746n 1.8 62.599414n 1.8
+ 62.799414n 0 64.555082n 0 64.755082n 1.8 66.509396n 1.8
+ 66.709396n 0 68.463711n 0 68.663711n 1.8 70.441014n 1.8
+ 70.641014n 0 72.418316n 0 72.618316n 1.8 74.376939n 1.8
+ 74.576939n 0 76.335562n 0 76.535562n 1.8 78.292743n 1.8
+ 78.492743n 0 80.249925n 0 80.449925n 1.8 82.221876n 1.8
+ 82.421876n 0 84.193827n 0 84.393827n 1.8 86.146971n 1.8
+ 86.346971n 0 88.100115n 0 88.300115n 1.8 90.060132n 1.8
+ 90.260132n 0 92.020148n 0 92.220148n 1.8 93.968624n 1.8
+ 94.168624n 0 95.917099n 0 96.117099n 1.8 97.891250n 1.8
+ 98.091250n 0 99.865402n 0 100.065402n 1.8 101.835413n 1.8
+ 102.035413n 0 103.805425n 0 104.005425n 1.8 105.783909n 1.8
+ 105.983909n 0 107.762394n 0 107.962394n 1.8 109.717192n 1.8
+ 109.917192n 0 111.671989n 0 111.871989n 1.8 113.632520n 1.8
+ 113.832520n 0 115.593050n 0 115.793050n 1.8 117.525445n 1.8
+ 117.725445n 0 119.457839n 0 119.657839n 1.8 121.416456n 1.8
+ 121.616456n 0 123.375073n 0 123.575073n 1.8 125.334851n 1.8
+ 125.534851n 0 127.294628n 0 127.494628n 1.8 129.232233n 1.8
+ 129.432233n 0 131.169838n 0 131.369838n 1.8 133.140322n 1.8
+ 133.340322n 0 135.110806n 0 135.310806n 1.8 137.053108n 1.8
+ 137.253108n 0 138.995410n 0 139.195410n 1.8 140.941176n 1.8
+ 141.141176n 0 142.886943n 0 143.086943n 1.8 144.820930n 1.8
+ 145.020930n 0 146.754918n 0 146.954918n 1.8 148.708429n 1.8
+ 148.908429n 0 150.661940n 0 150.861940n 1.8 152.613858n 1.8
+ 152.813858n 0 154.565776n 0 154.765776n 1.8 156.528067n 1.8
+ 156.728067n 0 158.490357n 0 158.690357n 1.8 160.440565n 1.8
+ 160.640565n 0 162.390772n 0 162.590772n 1.8 164.345780n 1.8
+ 164.545780n 0 166.300788n 0 166.500788n 1.8 168.250475n 1.8
+ 168.450475n 0 170.200161n 0 170.400161n 1.8 172.155610n 1.8
+ 172.355610n 0 174.111059n 0 174.311059n 1.8 176.063165n 1.8
+ 176.263165n 0 178.015272n 0 178.215272n 1.8 179.969407n 1.8
+ 180.169407n 0 181.923541n 0 182.123541n 1.8 183.865420n 1.8
+ 184.065420n 0 185.807299n 0 186.007299n 1.8 187.764660n 1.8
+ 187.964660n 0 189.722022n 0 189.922022n 1.8 191.677619n 1.8
+ 191.877619n 0 193.633216n 0 193.833216n 1.8 195.568611n 1.8
+ 195.768611n 0 197.504005n 0 197.704005n 1.8 199.456153n 1.8
+ 199.656153n 0 201.408300n 0 201.608300n 1.8 203.352908n 1.8
+ 203.552908n 0 205.297516n 0 205.497516n 1.8 207.258229n 1.8
+ 207.458229n 0 209.218942n 0 209.418942n 1.8 211.185661n 1.8
+ 211.385661n 0 213.152381n 0 213.352381n 1.8 215.106448n 1.8
+ 215.306448n 0 217.060515n 0 217.260515n 1.8 219.018390n 1.8
+ 219.218390n 0 220.976266n 0 221.176266n 1.8 222.935647n 1.8
+ 223.135647n 0 224.895028n 0 225.095028n 1.8 226.832970n 1.8
+ 227.032970n 0 228.770912n 0 228.970912n 1.8 230.728691n 1.8
+ 230.928691n 0 232.686470n 0 232.886470n 1.8 234.619122n 1.8
+ 234.819122n 0 236.551774n 0 236.751774n 1.8 238.522262n 1.8
+ 238.722262n 0 240.492750n 0 240.692750n 1.8 242.445584n 1.8
+ 242.645584n 0 244.398419n 0 244.598419n 1.8 246.335813n 1.8
+ 246.535813n 0 248.273206n 0 248.473206n 1.8 250.213134n 1.8
+ 250.413134n 0 252.153061n 0 252.353061n 1.8 254.122469n 1.8
+ 254.322469n 0 256.091877n 0 256.291877n 1.8 258.040726n 1.8
+ 258.240726n 0 259.989575n 0 260.189575n 1.8 261.962037n 1.8
+ 262.162037n 0 263.934499n 0 264.134499n 1.8 265.896507n 1.8
+ 266.096507n 0 267.858516n 0 268.058516n 1.8 269.799029n 1.8
+ 269.999029n 0 271.739542n 0 271.939542n 1.8 273.700453n 1.8
+ 273.900453n 0 275.661363n 0 275.861363n 1.8 277.620349n 1.8
+ 277.820349n 0 279.579334n 0 279.779334n 1.8 281.541783n 1.8
+ 281.741783n 0 283.504231n 0 283.704231n 1.8 285.452059n 1.8
+ 285.652059n 0 287.399886n 0 287.599886n 1.8 289.346806n 1.8
+ 289.546806n 0 291.293725n 0 291.493725n 1.8 293.256924n 1.8
+ 293.456924n 0 295.220123n 0 295.420123n 1.8 297.179257n 1.8
+ 297.379257n 0 299.138392n 0 299.338392n 1.8 301.106802n 1.8
+ 301.306802n 0 303.075213n 0 303.275213n 1.8 305.049165n 1.8
+ 305.249165n 0 307.023118n 0 307.223118n 1.8 308.994466n 1.8
+ 309.194466n 0 310.965814n 0 311.165814n 1.8 312.929001n 1.8
+ 313.129001n 0 314.892188n 0 315.092188n 1.8 316.849956n 1.8
+ 317.049956n 0 318.807725n 0 319.007725n 1.8 320.782879n 1.8
+ 320.982879n 0 322.758032n 0 322.958032n 1.8 324.710425n 1.8
+ 324.910425n 0 326.662817n 0 326.862817n 1.8 328.631524n 1.8
+ 328.831524n 0 330.600231n 0 330.800231n 1.8 332.563211n 1.8
+ 332.763211n 0 334.526191n 0 334.726191n 1.8 336.489587n 1.8
+ 336.689587n 0 338.452983n 0 338.652983n 1.8 340.425370n 1.8
+ 340.625370n 0 342.397758n 0 342.597758n 1.8 344.360966n 1.8
+ 344.560966n 0 346.324175n 0 346.524175n 1.8 348.291293n 1.8
+ 348.491293n 0 350.258411n 0 350.458411n 1.8 352.217787n 1.8
+ 352.417787n 0 354.177163n 0 354.377163n 1.8 356.118081n 1.8
+ 356.318081n 0 358.058999n 0 358.258999n 1.8 360.019386n 1.8
+ 360.219386n 0 361.979772n 0 362.179772n 1.8 363.943300n 1.8
+ 364.143300n 0 365.906827n 0 366.106827n 1.8 367.859258n 1.8
+ 368.059258n 0 369.811689n 0 370.011689n 1.8 371.750501n 1.8
+ 371.950501n 0 373.689313n 0 373.889313n 1.8 375.646217n 1.8
+ 375.846217n 0 377.603121n 0 377.803121n 1.8 379.566733n 1.8
+ 379.766733n 0 381.530344n 0 381.730344n 1.8 383.485383n 1.8
+ 383.685383n 0 385.440422n 0 385.640422n 1.8 387.390334n 1.8
+ 387.590334n 0 389.340245n 0 389.540245n 1.8 391.296491n 1.8
+ 391.496491n 0 393.252737n 0 393.452737n 1.8 395.212980n 1.8
+ 395.412980n 0 397.173223n 0 397.373223n 1.8 399.126583n 1.8
+ 399.326583n 0 401.079944n 0 401.279944n 1.8 403.041786n 1.8
+ 403.241786n 0 405.003628n 0 405.203628n 1.8 406.957765n 1.8
+ 407.157765n 0 408.911903n 0 409.111903n 1.8 410.857317n 1.8
+ 411.057317n 0 412.802731n 0 413.002731n 1.8 414.774176n 1.8
+ 414.974176n 0 416.745620n 0 416.945620n 1.8 418.700785n 1.8
+ 418.900785n 0 420.655949n 0 420.855949n 1.8 422.634968n 1.8
+ 422.834968n 0 424.613987n 0 424.813987n 1.8 426.582201n 1.8
+ 426.782201n 0 428.550416n 0 428.750416n 1.8 430.502079n 1.8
+ 430.702079n 0 432.453741n 0 432.653741n 1.8 434.420109n 1.8
+ 434.620109n 0 436.386476n 0 436.586476n 1.8 438.350095n 1.8
+ 438.550095n 0 440.313713n 0 440.513713n 1.8 442.287896n 1.8
+ 442.487896n 0 444.262079n 0 444.462079n 1.8 446.227116n 1.8
+ 446.427116n 0 448.192152n 0 448.392152n 1.8 450.154704n 1.8
+ 450.354704n 0 452.117256n 0 452.317256n 1.8 454.076163n 1.8
+ 454.276163n 0 456.035070n 0 456.235070n 1.8 458.000588n 1.8
+ 458.200588n 0 459.966105n 0 460.166105n 1.8 461.929934n 1.8
+ 462.129934n 0 463.893764n 0 464.093764n 1.8 465.845528n 1.8
+ 466.045528n 0 467.797293n 0 467.997293n 1.8 469.749421n 1.8
+ 469.949421n 0 471.701549n 0 471.901549n 1.8 473.672824n 1.8
+ 473.872824n 0 475.644100n 0 475.844100n 1.8 477.587946n 1.8
+ 477.787946n 0 479.531793n 0 479.731793n 1.8 481.480131n 1.8
+ 481.680131n 0 483.428469n 0 483.628469n 1.8 485.393079n 1.8
+ 485.593079n 0 487.357690n 0 487.557690n 1.8 489.307819n 1.8
+ 489.507819n 0 491.257949n 0 491.457949n 1.8 493.214557n 1.8
+ 493.414557n 0 495.171165n 0 495.371165n 1.8 497.111897n 1.8
+ 497.311897n 0 499.052629n 0 499.252629n 1.8 501.011894n 1.8
+ 501.211894n 0 502.971159n 0 503.171159n 1.8 504.931771n 1.8
+ 505.131771n 0 506.892382n 0 507.092382n 1.8 508.830182n 1.8
+ 509.030182n 0 510.767981n 0 510.967981n 1.8 512.724406n 1.8
+ 512.924406n 0 514.680830n 0 514.880830n 1.8 516.645802n 1.8
+ 516.845802n 0 518.610774n 0 518.810774n 1.8 520.572698n 1.8
+ 520.772698n 0 522.534621n 0 522.734621n 1.8 524.502865n 1.8
+ 524.702865n 0 526.471108n 0 526.671108n 1.8 528.416419n 1.8
+ 528.616419n 0 530.361731n 0 530.561731n 1.8 532.322286n 1.8
+ 532.522286n 0 534.282842n 0 534.482842n 1.8 536.252814n 1.8
+ 536.452814n 0 538.222786n 0 538.422786n 1.8 540.170041n 1.8
+ 540.370041n 0 542.117296n 0 542.317296n 1.8 544.077513n 1.8
+ 544.277513n 0 546.037730n 0 546.237730n 1.8 548.007133n 1.8
+ 548.207133n 0 549.976536n 0 550.176536n 1.8 551.937773n 1.8
+ 552.137773n 0 553.899009n 0 554.099009n 1.8 555.861536n 1.8
+ 556.061536n 0 557.824063n 0 558.024063n 1.8 559.782148n 1.8
+ 559.982148n 0 561.740233n 0 561.940233n 1.8 563.711361n 1.8
+ 563.911361n 0 565.682490n 0 565.882490n 1.8 567.637222n 1.8
+ 567.837222n 0 569.591953n 0 569.791953n 1.8 571.555371n 1.8
+ 571.755371n 0 573.518789n 0 573.718789n 1.8 575.463123n 1.8
+ 575.663123n 0 577.407458n 0 577.607458n 1.8 579.366747n 1.8
+ 579.566747n 0 581.326036n 0 581.526036n 1.8 583.291594n 1.8
+ 583.491594n 0 585.257153n 0 585.457153n 1.8 587.222202n 1.8
+ 587.422202n 0 589.187251n 0 589.387251n 1.8 591.147924n 1.8
+ 591.347924n 0 593.108597n 0 593.308597n 1.8 595.069779n 1.8
+ 595.269779n 0 597.030962n 0 597.230962n 1.8 598.993772n 1.8
+ 599.193772n 0 600.956583n 0 601.156583n 1.8 602.937485n 1.8
+ 603.137485n 0 604.918387n 0 605.118387n 1.8 606.877019n 1.8
+ 607.077019n 0 608.835652n 0 609.035652n 1.8 610.799193n 1.8
+ 610.999193n 0 612.762734n 0 612.962734n 1.8 614.720961n 1.8
+ 614.920961n 0 616.679189n 0 616.879189n 1.8 618.640498n 1.8
+ 618.840498n 0 620.601807n 0 620.801807n 1.8 622.559330n 1.8
+ 622.759330n 0 624.516853n 0 624.716853n 1.8 626.480262n 1.8
+ 626.680262n 0 628.443670n 0 628.643670n 1.8 630.400463n 1.8
+ 630.600463n 0 632.357257n 0 632.557257n 1.8 634.317261n 1.8
+ 634.517261n 0 636.277266n 0 636.477266n 1.8 638.234486n 1.8
+ 638.434486n 0 640.191707n 0 640.391707n 1.8 642.150986n 1.8
+ 642.350986n 0 644.110265n 0 644.310265n 1.8 646.068893n 1.8
+ 646.268893n 0 648.027521n 0 648.227521n 1.8 649.991306n 1.8
+ 650.191306n 0 651.955092n 0 652.155092n 1.8 653.910526n 1.8
+ 654.110526n 0 655.865960n 0 656.065960n 1.8 657.823153n 1.8
+ 658.023153n 0 659.780346n 0 659.980346n 1.8 661.731905n 1.8
+ 661.931905n 0 663.683464n 0 663.883464n 1.8 665.634832n 1.8
+ 665.834832n 0 667.586200n 0 667.786200n 1.8 669.573151n 1.8
+ 669.773151n 0 671.560101n 0 671.760101n 1.8 673.518879n 1.8
+ 673.718879n 0 675.477658n 0 675.677658n 1.8 677.430996n 1.8
+ 677.630996n 0 679.384334n 0 679.584334n 1.8 681.341414n 1.8
+ 681.541414n 0 683.298494n 0 683.498494n 1.8 685.255704n 1.8
+ 685.455704n 0 687.212915n 0 687.412915n 1.8 689.179570n 1.8
+ 689.379570n 0 691.146225n 0 691.346225n 1.8 693.108637n 1.8
+ 693.308637n 0 695.071049n 0 695.271049n 1.8 697.036525n 1.8
+ 697.236525n 0 699.002000n 0 699.202000n 1.8 700.956517n 1.8
+ 701.156517n 0 702.911034n 0 703.111034n 1.8 704.857523n 1.8
+ 705.057523n 0 706.804012n 0 707.004012n 1.8 708.770566n 1.8
+ 708.970566n 0 710.737120n 0 710.937120n 1.8 712.690411n 1.8
+ 712.890411n 0 714.643703n 0 714.843703n 1.8 716.599122n 1.8
+ 716.799122n 0 718.554540n 0 718.754540n 1.8 720.494770n 1.8
+ 720.694770n 0 722.434999n 0 722.634999n 1.8 724.387322n 1.8
+ 724.587322n 0 726.339645n 0 726.539645n 1.8 728.302051n 1.8
+ 728.502051n 0 730.264457n 0 730.464457n 1.8 732.220727n 1.8
+ 732.420727n 0 734.176997n 0 734.376997n 1.8 736.146342n 1.8
+ 736.346342n 0 738.115686n 0 738.315686n 1.8 740.071191n 1.8
+ 740.271191n 0 742.026695n 0 742.226695n 1.8 743.971946n 1.8
+ 744.171946n 0 745.917197n 0 746.117197n 1.8 747.879404n 1.8
+ 748.079404n 0 749.841612n 0 750.041612n 1.8 751.801057n 1.8
+ 752.001057n 0 753.760502n 0 753.960502n 1.8 755.729599n 1.8
+ 755.929599n 0 757.698696n 0 757.898696n 1.8 759.674920n 1.8
+ 759.874920n 0 761.651143n 0 761.851143n 1.8 763.619626n 1.8
+ 763.819626n 0 765.588109n 0 765.788109n 1.8 767.550722n 1.8
+ 767.750722n 0 769.513335n 0 769.713335n 1.8 771.478265n 1.8
+ 771.678265n 0 773.443196n 0 773.643196n 1.8 775.410382n 1.8
+ 775.610382n 0 777.377569n 0 777.577569n 1.8 779.335215n 1.8
+ 779.535215n 0 781.292861n 0 781.492861n 1.8 783.251574n 1.8
+ 783.451574n 0 785.210287n 0 785.410287n 1.8 787.150267n 1.8
+ 787.350267n 0 789.090247n 0 789.290247n 1.8 791.077398n 1.8
+ 791.277398n 0 793.064549n 0 793.264549n 1.8 795.034076n 1.8
+ 795.234076n 0 797.003603n 0 797.203603n 1.8 798.955458n 1.8
+ 799.155458n 0 800.907313n 0 801.107313n 1.8 802.867732n 1.8
+ 803.067732n 0 804.828151n 0 805.028151n 1.8 806.790945n 1.8
+ 806.990945n 0 808.753738n 0 808.953738n 1.8 810.711563n 1.8
+ 810.911563n 0 812.669387n 0 812.869387n 1.8 814.629784n 1.8
+ 814.829784n 0 816.590181n 0 816.790181n 1.8 818.564711n 1.8
+ 818.764711n 0 820.539241n 0 820.739241n 1.8 822.495041n 1.8
+ 822.695041n 0 824.450841n 0 824.650841n 1.8 826.410258n 1.8
+ 826.610258n 0 828.369674n 0 828.569674n 1.8 830.326122n 1.8
+ 830.526122n 0 832.282570n 0 832.482570n 1.8 834.262298n 1.8
+ 834.462298n 0 836.242026n 0 836.442026n 1.8 838.195279n 1.8
+ 838.395279n 0 840.148532n 0 840.348532n 1.8 842.111881n 1.8
+ 842.311881n 0 844.075230n 0 844.275230n 1.8 846.041575n 1.8
+ 846.241575n 0 848.007920n 0 848.207920n 1.8 849.959522n 1.8
+ 850.159522n 0 851.911124n 0 852.111124n 1.8 853.874581n 1.8
+ 854.074581n 0 855.838037n 0 856.038037n 1.8 857.800909n 1.8
+ 858.000909n 0 859.763781n 0 859.963781n 1.8 861.736165n 1.8
+ 861.936165n 0 863.708550n 0 863.908550n 1.8 865.662259n 1.8
+ 865.862259n 0 867.615969n 0 867.815969n 1.8 869.552139n 1.8
+ 869.752139n 0 871.488309n 0 871.688309n 1.8 873.435019n 1.8
+ 873.635019n 0 875.381729n 0 875.581729n 1.8 877.351259n 1.8
+ 877.551259n 0 879.320788n 0 879.520788n 1.8 881.268552n 1.8
+ 881.468552n 0 883.216316n 0 883.416316n 1.8 885.178338n 1.8
+ 885.378338n 0 887.140360n 0 887.340360n 1.8 889.099425n 1.8
+ 889.299425n 0 891.058490n 0 891.258490n 1.8 893.014421n 1.8
+ 893.214421n 0 894.970352n 0 895.170352n 1.8 896.927320n 1.8
+ 897.127320n 0 898.884287n 0 899.084287n 1.8 900.853858n 1.8
+ 901.053858n 0 902.823429n 0 903.023429n 1.8 904.786009n 1.8
+ 904.986009n 0 906.748590n 0 906.948590n 1.8 908.711907n 1.8
+ 908.911907n 0 910.675224n 0 910.875224n 1.8 912.624575n 1.8
+ 912.824575n 0 914.573925n 0 914.773925n 1.8 916.541204n 1.8
+ 916.741204n 0 918.508483n 0 918.708483n 1.8 920.467196n 1.8
+ 920.667196n 0 922.425909n 0 922.625909n 1.8 924.367954n 1.8
+ 924.567954n 0 926.309999n 0 926.509999n 1.8 928.281027n 1.8
+ 928.481027n 0 930.252055n 0 930.452055n 1.8 932.216110n 1.8
+ 932.416110n 0 934.180165n 0 934.380165n 1.8 936.119446n 1.8
+ 936.319446n 0 938.058728n 0 938.258728n 1.8 940.020721n 1.8
+ 940.220721n 0 941.982713n 0 942.182713n 1.8 943.923682n 1.8
+ 944.123682n 0 945.864650n 0 946.064650n 1.8 947.821486n 1.8
+ 948.021486n 0 949.778322n 0 949.978322n 1.8 951.726055n 1.8
+ 951.926055n 0 953.673788n 0 953.873788n 1.8 955.645111n 1.8
+ 955.845111n 0 957.616433n 0 957.816433n 1.8 959.576128n 1.8
+ 959.776128n 0 961.535823n 0 961.735823n 1.8 963.491507n 1.8
+ 963.691507n 0 965.447191n 0 965.647191n 1.8 967.415680n 1.8
+ 967.615680n 0 969.384170n 0 969.584170n 1.8 971.349547n 1.8
+ 971.549547n 0 973.314924n 0 973.514924n 1.8 975.282608n 1.8
+ 975.482608n 0 977.250292n 0 977.450292n 1.8 979.237676n 1.8
+ 979.437676n 0 981.225060n 0 981.425060n 1.8 983.167780n 1.8
+ 983.367780n 0 985.110501n 0 985.310501n 1.8 987.061475n 1.8
+ 987.261475n 0 989.012450n 0 989.212450n 1.8 990.967234n 1.8
+ 991.167234n 0 992.922019n 0 993.122019n 1.8 994.892203n 1.8
+ 995.092203n 0 996.862388n 0 997.062388n 1.8 998.815205n 1.8
+ 999.015205n 0 1000.768022n 0 1000.968022n 1.8 1002.727538n 1.8
+ 1002.927538n 0 1004.687055n 0 1004.887055n 1.8 1006.639407n 1.8
+ 1006.839407n 0 1008.591760n 0 1008.791760n 1.8 1010.557834n 1.8
+ 1010.757834n 0 1012.523908n 0 1012.723908n 1.8 1014.476223n 1.8
+ 1014.676223n 0 1016.428538n 0 1016.628538n 1.8 1018.393967n 1.8
+ 1018.593967n 0 1020.359396n 0 1020.559396n 1.8 1022.313175n 1.8
+ 1022.513175n 0 1024.266954n 0 1024.466954n 1.8 1026.224623n 1.8
+ 1026.424623n 0 1028.182292n 0 1028.382292n 1.8 1030.135882n 1.8
+ 1030.335882n 0 1032.089473n 0 1032.289473n 1.8 1034.046846n 1.8
+ 1034.246846n 0 1036.004219n 0 1036.204219n 1.8 1037.967072n 1.8
+ 1038.167072n 0 1039.929926n 0 1040.129926n 1.8 1041.885882n 1.8
+ 1042.085882n 0 1043.841838n 0 1044.041838n 1.8 1045.795508n 1.8
+ 1045.995508n 0 1047.749178n 0 1047.949178n 1.8 1049.691821n 1.8
+ 1049.891821n 0 1051.634464n 0 1051.834464n 1.8 1053.612496n 1.8
+ 1053.812496n 0 1055.590529n 0 1055.790529n 1.8 1057.541097n 1.8
+ 1057.741097n 0 1059.491665n 0 1059.691665n 1.8 1061.437809n 1.8
+ 1061.637809n 0 1063.383953n 0 1063.583953n 1.8 1065.351630n 1.8
+ 1065.551630n 0 1067.319306n 0 1067.519306n 1.8 1069.285430n 1.8
+ 1069.485430n 0 1071.251554n 0 1071.451554n 1.8 1073.206077n 1.8
+ 1073.406077n 0 1075.160599n 0 1075.360599n 1.8 1077.119927n 1.8
+ 1077.319927n 0 1079.079255n 0 1079.279255n 1.8 1081.040285n 1.8
+ 1081.240285n 0 1083.001315n 0 1083.201315n 1.8 1084.952044n 1.8
+ 1085.152044n 0 1086.902774n 0 1087.102774n 1.8 1088.860018n 1.8
+ 1089.060018n 0 1090.817263n 0 1091.017263n 1.8 1092.777585n 1.8
+ 1092.977585n 0 1094.737907n 0 1094.937907n 1.8 1096.696748n 1.8
+ 1096.896748n 0 1098.655588n 0 1098.855588n 1.8 1100.609673n 1.8
+ 1100.809673n 0 1102.563758n 0 1102.763758n 1.8 1104.521425n 1.8
+ 1104.721425n 0 1106.479091n 0 1106.679091n 1.8 1108.458364n 1.8
+ 1108.658364n 0 1110.437638n 0 1110.637638n 1.8 1112.401512n 1.8
+ 1112.601512n 0 1114.365386n 0 1114.565386n 1.8 1116.328675n 1.8
+ 1116.528675n 0 1118.291964n 0 1118.491964n 1.8 1120.240424n 1.8
+ 1120.440424n 0 1122.188883n 0 1122.388883n 1.8 1124.144212n 1.8
+ 1124.344212n 0 1126.099541n 0 1126.299541n 1.8 1128.048691n 1.8
+ 1128.248691n 0 1129.997841n 0 1130.197841n 1.8 1131.963187n 1.8
+ 1132.163187n 0 1133.928534n 0 1134.128534n 1.8 1135.897578n 1.8
+ 1136.097578n 0 1137.866622n 0 1138.066622n 1.8 1139.817752n 1.8
+ 1140.017752n 0 1141.768882n 0 1141.968882n 1.8 1143.722121n 1.8
+ 1143.922121n 0 1145.675359n 0 1145.875359n 1.8 1147.622021n 1.8
+ 1147.822021n 0 1149.568682n 0 1149.768682n 1.8 1151.530254n 1.8
+ 1151.730254n 0 1153.491826n 0 1153.691826n 1.8 1155.446467n 1.8
+ 1155.646467n 0 1157.401108n 0 1157.601108n 1.8 1159.371106n 1.8
+ 1159.571106n 0 1161.341104n 0 1161.541104n 1.8 1163.285648n 1.8
+ 1163.485648n 0 1165.230193n 0 1165.430193n 1.8 1167.181739n 1.8
+ 1167.381739n 0 1169.133286n 0 1169.333286n 1.8 1171.098313n 1.8
+ 1171.298313n 0 1173.063341n 0 1173.263341n 1.8 1175.031671n 1.8
+ 1175.231671n 0 1177.000000n 0 1177.200000n 1.8 1178.958500n 1.8
+ 1179.158500n 0
+ )


** sky130 PDK model include (tt corner) -- patched per-point by sim/harness.
** No device in this testbench uses it: it is here so the harness's own
** corner substitution and this record's environment provenance are the same
** as every other campaign's. See this file's header comment.
.lib /home/ubuntu/.volare/sky130A/libs.tech/combined/sky130.lib.spice tt
** No .tran/.print card here on purpose -- sim/harness/measure.py injects the
** analysis from this manifest's own measure block.

**** end user architecture code
**.ends
.GLOBAL GND
.temp 27
.control
set filetype=ascii
save v(CLK)
tran 200p 1.2u
linearize v(CLK)
wrdata tt_27c_1.80v-point000.raw v(CLK)
destroy all
echo "sim/harness: analysis complete"
.endc
.end
